US09382236B2
(1) tert-Butyl 4-(1-nitro-2-naphthylamino)phenylcarbamate
1-Nitro-2-naphthyl trifluoromethanesulfonate (20.26 g, 63.07 mmol), tert-butyl 4-aminophenylcarbamate (13.13 g, 63.07 mmol), triphenylphosphine (1.65 g, 6.31 mmol), tetrakis(triphenylphosphine)palladium(0) (3.64 g, 3.15 mmol), potassium carbonate (8.72 g, 63.07 mmol), and dry toluene (600 mL) were mixed, and the mixture was refluxed by heating for 6 hours under a nitrogen atmosphere. After the reaction mixture was left to cool, the insoluble matter was separated by filtration, and washed off with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1), and then recrystallized from ethyl acetate/hexane to obtain the title compound (18.67 g, yield 78%) as yellow crystals.

reactant | 1-Nitro-2-naphthyl trifluoromethanesulfonate | 63.07 mmol, 20.26 g | FC(S(=O)(=O)OC1=C(C2=CC=CC=C2C=C1)[N+](=O)[O-])(F)F | C11H6F3NO5S
reactant | tert-butyl 4-aminophenylcarbamate | 63.07 mmol, 13.13 g | NC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | triphenylphosphine | 6.31 mmol, 1.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 63.07 mmol, 8.72 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3.15 mmol, 3.64 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 4-(1-nitro-2-naphthylamino)phenylcarbamate | 18.67 g, yield 78% | [N+](=O)([O-])C1=C(C=CC2=CC=CC=C12)NC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C21H21N3O4
